US08222414B2
Step A: (S)-2-BOC-amino-3-methylsulfonyloxy-propionic acid methyl ester
Commercially available (S)-2-BOC-amino-3-hydroxy-propionic acid methyl ester and methanesulfonylchloride were reacted according to the same procedure as Step B of Preparation 29 to give the title compound.

reactant | (S)-2-BOC-amino-3-hydroxy-propionic acid methyl ester | COC([C@@](CO)(C(=O)OC(C)(C)C)N)=O | C9H17NO5
reactant | methanesulfonylchloride | CS(=O)(=O)Cl | CH3ClO2S
product | (S)-2-BOC-amino-3-methylsulfonyloxy-propionic acid methyl ester | COC([C@@](COS(=O)(=O)C)(C(=O)OC(C)(C)C)N)=O | C10H19NO7S
